US04416884
A mixture of 8 g of 6-fluoro-5-acetylamino-quinaldine and 0.2 g of 5% platinum on carbon was dissolved in 80 ml of acetic acid and the solution was subjected to catalytic hydrogenation according to Parr method at a hydrogen pressure of 4 kg/cm2. After a theoretical amount of hydrogen was absorbed the reaction mixture was filtered. The filtrate was then concentrated under reduced pressure to obtain 8 g of 6-fluoro-5-acetylamino-1,2,3,4-tetrahydroquinaldine as an oily product. Production of this compound was confirmed by NMR spectral analysis and mass spectral analysis.

reactant | 6-fluoro-5-acetylamino-quinaldine | 8 g | FC=1C(=C2C=CC(=NC2=CC1)C)NC(C)=O | C12H11FN2O
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | 0.2 g | [Pt] | Pt
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 6-fluoro-5-acetylamino-1,2,3,4-tetrahydroquinaldine | 8 g | FC=1C(=C2CCC(NC2=CC1)C)NC(C)=O | C12H15FN2O
